US09382238B2
To a suspension of 1-methyl-4-(3-nitro-5-(trifluoromethyl)phenyl)-1H-pyrazole (300 mg, 1.106 mmol) in MeOH (10 mL) was added Pd/C (118 mg, 1.106 mmol). The mixture was hydrogenated at 40 psi at 28° C. for 12 h under a H2 atmosphere. Then the solution was filtered and concentrated to yield 3-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)aniline (240 mg, 0.995 mmol, 90% yield). TLC (PE/EA=1:1, Rf=0.3): 1H NMR (400 MHz, CD3OD) δ 7.98 (s, 1H), 7.81 (s, 1H), 7.16 (d, J=7.3 Hz, 2H), 6.88 (s, 1H), 3.92 (s, 3H). ES-LCMS m/z 242 (M+H).

reactant | 1-methyl-4-(3-nitro-5-(trifluoromethyl)phenyl)-1H-pyrazole | 1.106 mmol, 300 mg | CN1N=CC(=C1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C11H8F3N3O2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 1.106 mmol, 118 mg | [Pd] | Pd
product | 3-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)aniline | 0.995 mmol, 240 mg, 90% yield | CN1N=CC(=C1)C=1C=C(N)C=C(C1)C(F)(F)F | C11H10F3N3
